US04447258
(g) 6-Cyclohexyl-4-methyl-3-methylthio-1,2,4-triazin-5(4H)-one
30 ml of 3-benzyl-4-hydroxy-biphenyl polyglycol ether, as an emulsifier, and 5,805 g (25.8 mol) of 6-cyclohexyl-4-methyl-5-oxo-3-thioxo-tetrahydro-1,2,4-(2H,4H)-triazine were added to a solution of 1,033 g of NaOH in 52 liters of water. 3,881 g (27.3 mol) of methyl iodide were added dropwise (or 2,620 g of methyl bromide were passed in) and the mixture was subsequently stirred until the slightly exothermic reaction had ended and the pH value had reached 7-8. After filtering off the product, washing it with water and drying it at 50° C., 5,860 g (95% of theory) of the compound (IIc) of melting point 84°-88° C. were obtained. The crude product was sufficiently pure for further reaction. A sample recrystallized from methanol or petroleum ether melted at 90° C.

reactant | 6-cyclohexyl-4-methyl-5-oxo-3-thioxo-tetrahydro-1,2,4-(2H,4H)-triazine | 25.8 mol, 5,805 g | C1(CCCCC1)C1C(N(C(NN1)=S)C)=O | C10H17N3OS
reactant | NaOH | 1,033 g | [OH-].[Na+]
reactant | methyl iodide | 27.3 mol, 3,881 g | CI | CH3I
reactant | methyl bromide | 2,620 g | CBr | CH3Br
solvent | water | 52 liters | O | H2O
product | 6-Cyclohexyl-4-methyl-3-methylthio-1,2,4-triazin-5(4H)-one | C1(CCCCC1)C=1C(N(C(=NN1)SC)C)=O | C11H17N3OS
